US07700609B2
1-Methyl-1,3a,5,6,7,7a-hexahydro-indazol-4-one
A MeOH solution of methylhydrazine 0.046 g (0.01 mol) and 2-dimethylaminomethylene-cyclohexane-1,3-dione 1.67 g (0.01 mol) was stirred at room temperature for 1 h, and then was stirred at 50° C. for 1 h. NMR of crude material indicated the reaction was completed. Work up: The reaction mixture was diluted with ethyl acetate and washed with brine. The organic phase was dried with MgSO4, and the solvent was rotary evaporated. The crude product was filtered through silica gel, and 1.03 g pure product was obtained, the yield is 69%.

reactant | MeOH | CO | CH4O
reactant | methylhydrazine | 0.01 mol, 0.046 g | CNN | CH6N2
reactant | 2-dimethylaminomethylene-cyclohexane-1,3-dione | 0.01 mol, 1.67 g | CN(C)C=C1C(CCCC1=O)=O | C9H13NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-1,3a,5,6,7,7a-hexahydro-indazol-4-one | 1.03 g, yield is 69% | CN1N=CC2C(CCCC12)=O | C8H12N2O
